US07364908B2
In a typical procedure for reverse fluorous solid phase extraction in the studies of FIG. 4, a perfluoroalkyl iodide such as perfluorodecyl iodide (RfI, 323 mg, 0.5 mmol), allyltributyltin (330 mg, 1 mmol), AIBN (9 mg, 0.05 mmol) and hexane (5 ml) were placed in a flask under an argon atmosphere and the mixture was refluxed for 5 h. After removal of the volatile components by evaporation, the mixture was submitted to separation by reverse fluorous solid phase extraction. A short column was packed with regular silica gel (6.0 g) using FC-72/Et2O (2/1) as the solvent. The crude reaction mixture was then loaded onto this column and eluted with 20 ml of FC-72/Et2O (2/1) to give 3-(perfluorodecyl)prop-1-ene in 97% yield (271 mg). After similar reactions and separations, the allylated products 2a-d, 3a-d and 4a-d were isolated in yields ranging from 69-93%. The nuclear magnetic resonance (NMR) spectra of these products were clean, and gas chromatography (GC) or high pressure liquid chromatography (HPLC) purities exceeded 90% in all cases. The purity of the products was determined by GC in the case of R═H or R═Me and HPLC (Nova Pak® Silica, UV detection at 254 nm) in the case of R═Ph.

reactant | perfluorodecyl iodide | 0.5 mmol, 323 mg | FC(C(C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)I | C10F21I
reactant | allyltributyltin | 1 mmol, 330 mg | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | AIBN | 0.05 mmol, 9 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | hexane | 5 ml | CCCCCC | C6H14
product | 3-(perfluorodecyl)prop-1-ene | 97% yield | FC(C(C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(CC=C)F | C13H5F21
